US06774138B2
4,6-Dimethoxy-2-(phenylethynyl)pyrimidine (320 mg, 1.3 mmol) was dissolved in CH2Cl2 (1.0 mL), and treated with HCl in diethyl ether (1.6 mL of a 1.0M solution, 1.6 mmol). A yellow solid precipitated immediately. The mixture was diluted with ethyl acetate and allowed to stand in the freezer for 16 h. The cold supernatant was decanted and the remaining solids were triturated with ethyl acetate (1.5 mL), and then hexane (3×2 mL). The remaining solid was dried in vacuo to afford 4,6-dimethoxy-2-(phenylethynyl)pyrimidine hydrochloride (174 mg, 47% yield) as a yellow solid. M.p. 137-138. 1H NMR (CD3OD, 300 MHz) δ 7.65-7.62 (m, 2H), 7.46-7.42 (m, 3H), 6.16 (s, 1H), 3.97 (s, 6H).

reactant | 4,6-Dimethoxy-2-(phenylethynyl)pyrimidine | 1.3 mmol, 320 mg | COC1=NC(=NC(=C1)OC)C#CC1=CC=CC=C1 | C14H12N2O2
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4,6-dimethoxy-2-(phenylethynyl)pyrimidine hydrochloride | 174 mg, 47% yield | Cl.COC1=NC(=NC(=C1)OC)C#CC1=CC=CC=C1 | InChI=1S/C14H12N2O2.ClH/c1-17-13-10-14(18-2)16-12(15-13)9-8-11-6-4-3-5-7-11;/h3-7,10H,1-2H3;1H
